US07619086B2
Step 3: 5-Ethyl-2-(4-fluorobenzyl)-8-hydroxy-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione
To a cooled (−78° C.) solution of 4-(1-aminopropyl)-1-(4-fluorobenzyl)piperidin-2-one (2.0 g, 8 mmol) in anhydrous THF (20 mL) was added LiHMDS (1M in THF, 18.9 mL, 18.9 mmol) under an atmosphere of nitrogen. After stirring at −78° C. for 5 min, diethyl oxalate (3.32 g, 22.7 mmol) was added to the reaction mixture. After stirring for 2 hours at −78° C., then for 0.5 hour at −20° C., LiHMDS (1M in THF, 22 mL, 22 mmol) was added. After stirring at room temperature for 24 hours, the reaction mixture was quenched with 1N HCl. The mixture was partitioned between EtOAc and water. The organic extract was dried with Na2SO4, filtered, concentrated under vacuum, then filtered through a plug of silica gel and eluting with 1% methanol in CH2Cl2. The diastereomers were separated using reverse phase HPLC on a C18 stationary phase eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compounds. Diastereomer 1, the hydrogens at positions 4a and 5 have a cis relationship to one another: 1H NMR (400 MHz, CDCl3) δ 13.67 (br, 1H), 7.26 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 4.68 (d, J=14.7 Hz, 1H), 4.52 (d, J=14.7 Hz, 1H), 3.35 (m, 4H), 1.79 (m, 3H), 1.48 (m, 1H), 0.97 (t, J=7.3 Hz, 3H) ppm. ES MS M+1=319. Diastereomer 2, the hydrogens at positions 4a and 5 have a trans relationship to one another: 1H NMR (400 MHz, CDCl3) δ 7.26 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 6.54 (br, 1H), 4.72 (d, J=14.7 Hz, 1H), 4.49 (d, J=14.7 Hz, 1H), 3.34 (m, 3H), 2.73 (dt, J=4, 13 Hz, 1H), 1.99 (m, 1H), 1.78 (m, 1H), 1.57 (m, 2H), 1.01 (t, J=7.5 Hz, 3H) ppm. ES MS M+1=319.

reactant | 4-(1-aminopropyl)-1-(4-fluorobenzyl)piperidin-2-one | 8 mmol, 2.0 g | NC(CC)C1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C15H21FN2O
reactant | LiHMDS | 18.9 mmol, 1M, 18.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | diethyl oxalate | 22.7 mmol, 3.32 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | LiHMDS | 22 mmol, 1M, 22 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Ethyl-2-(4-fluorobenzyl)-8-hydroxy-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | C(C)C1C2CCN(C(C2=C(C(N1)=O)O)=O)CC1=CC=C(C=C1)F | C17H19FN2O3
